US07678818B2
c) Preparation of 2-chloro-4-cyclopropyl-benzaldehyde
To a solution of 7.01 ml Red-Al 13.5 M (24.54 mmol) in toluene was added at 0° C. a solution of 3.0 ml 1-methylpiperazine (26.89 mmol) in 16 ml toluene over 30 min. The resulting solution was then added dropwise over 40 min to 1.1 g of 2-chloro-4-cyclopropyl-benzoic acid methyl ester (5.2 mmol) in 32 ml toluene between −5° C. and 0° C. After stirring for 30 min at this temperature, the reaction mixture was cooled to −10° C. and treated dropwise with 30 ml water. The mixture was then filtered, diluted with ethylacetate, washed with 1N—HCl, brine, dried over magnesium sulfate, filtered again and concentrated in vacuo, leading to 0.98 g of 2-chloro-4-cyclopropyl-benzaldehyde as a brown oil (100%). MS (+cEI): 180.1 (M).

reactant | Red-Al | 24.54 mmol, 13.5 M, 7.01 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | 1-methylpiperazine | 26.89 mmol, 3.0 ml | CN1CCNCC1 | C5H12N2
reactant | 2-chloro-4-cyclopropyl-benzoic acid methyl ester | 5.2 mmol | COC(C1=C(C=C(C=C1)C1CC1)Cl)=O | C11H11ClO2
reactant | water | 30 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-cyclopropyl-benzaldehyde | ClC1=C(C=O)C=CC(=C1)C1CC1 | C10H9ClO
